* ECEN4827/5827 library
* modified for use with LTSpice; DM 8/19/2008
*
* 0.35u CMOS process
*
* NMOS transistor model name: NM
* PMOS transistor model name: PM
* Positive TC resistor subcircuit name: RPP
* Negative TC resistor subcircuit name: RPN
* nwell diode (cathode must be tied to most negative supply rail): WDIODE

*-----------------------------------------------------------------------
.subckt NM D G S B
+params: W=10u L=1u
M1 D G S B NM L={L} W={W} AS={2u*W} PS={2*(2u+W)} AD={2u*W} PD={2*(2u+W)}
.ends

* ----------------------------------------------------------------------
* NMOS transistor model
* ----------------------------------------------------------------------
.MODEL NM NMOS LEVEL=8
* ----------------------------------------------------------------------
************************* SIMULATION PARAMETERS ************************
* ----------------------------------------------------------------------
* format    : LTspice
* model     : MOS BSIM3v3
* ----------------------------------------------------------------------
*                        TYPICAL MEAN CONDITION
* ----------------------------------------------------------------------
*        *** Flags ***
+MOBMOD =1.000e+00 CAPMOD =2.000e+00
+NOIMOD =3.000e+00
*        *** Threshold voltage related model parameters ***
+K1     =5.0296e-01
+K2     =3.3985e-02 K3     =-1.136e+00 K3B    =-4.399e-01
+NCH    =2.611e+17 VTH0   =4.979e-01
+VOFF   =-8.925e-02 DVT0   =5.000e+01 DVT1   =1.039e+00
+DVT2   =-8.375e-03 KETA   =2.032e-02
+PSCBE1 =3.518e+08 PSCBE2 =7.491e-05
+DVT0W  =1.089e-01 DVT1W  =6.671e+04 DVT2W  =-1.352e-02
*        *** Mobility related model parameters ***
+UA     =4.705e-12 UB     =2.137e-18 UC     =1.000e-20
+U0     =4.758e+02
*        *** Subthreshold related parameters ***
+DSUB   =5.000e-01 ETA0   =1.415e-02 ETAB   =-1.221e-01
+NFACTOR=4.136e-01
*        *** Saturation related parameters ***
+EM     =4.100e+07 PCLM   =6.948e-01
+PDIBLC1=3.571e-01 PDIBLC2=2.065e-03 DROUT  =5.000e-01
+A0     =2.541e+00 A1     =0.000e+00 A2     =1.000e+00
+PVAG   =0.000e+00 VSAT   =1.338e+05 AGS    =2.408e-01
+B0     =4.301e-09 B1     =0.000e+00 DELTA  =1.442e-02
+PDIBLCB=3.222e-01
*        *** Geometry modulation related parameters ***
+W0     =2.673e-07 DLC    =3.0000e-08
+DWB    =0.000e+00 DWG    =0.000e+00
+LL     =0.000e+00 LW     =0.000e+00 LWL    =0.000e+00
+LLN    =1.000e+00 LWN    =1.000e+00 WL     =0.000e+00
+WW     =-1.297e-14 WWL    =-9.411e-21 WLN    =1.000e+00
+WWN    =1.000e+00
*        *** Temperature effect parameters ***
+AT     =3.300e+04 UTE    =-1.800e+00
+KT1    =-3.302e-01 KT2    =2.200e-02 KT1L   =0.000e+00
+UA1    =0.000e+00 UB1    =0.000e+00 UC1    =0.000e+00
+PRT    =0.000e+00
*        *** Overlap capacitance related and dynamic model parameters   ***
+CGDO   =1.200e-10 CGSO   =1.200e-10 CGBO   =1.100e-10
+CGDL   =1.310e-10 CGSL   =1.310e-10 CKAPPA =6.000e-01
+CF     =0.000e+00 ELM    =5.000e+00
+XPART  =1.000e+00 CLC    =1.000e-15 CLE    =6.000e-01
*        *** Parasitic resistance and capacitance related model parameters ***
+RDSW   =3.449e+02
+CDSC   =0.000e+00 CDSCB  =1.500e-03 CDSCD  =1.000e-03
+PRWB   =-2.416e-01 PRWG   =0.000e+00 CIT    =4.441e-04
*        *** Process and parameters extraction related model parameters ***
+TOX    =7.575e-09 NGATE  =0.000e+00
+NLX    =1.888e-07
*        *** Substrate current related model parameters ***
+ALPHA0 =0.000e+00 BETA0  =3.000e+01
*        *** Noise effect related model parameters ***
+AF     =1.507e+00 KF     =2.170e-26 EF     =1.000e+00
+NOIA   =1.121e+19 NOIB   =5.336e+04 NOIC   =-5.892e-13
*        *** Common extrinsic model parameters ***
+LINT   =-5.005e-08 WINT   =9.4030e-08 XJ     =3.000e-07
+RSH    =7.000e+01 JS     =1.000e-05
+CJ     =9.400e-04 CJSW   =2.500e-10
****************not used +CBD    =0.000e+00 CBS    =0.000e+00 IS     =0.000e+00
+MJ     =3.400e-01 N      =1.000e+00 MJSW   =2.300e-01
+PB     =6.900e-01 TT     =0.000e+00
+PBSW   =6.900e-01
* ---------------------------------------------------------------------



*-----------------------------------------------------------------------
.subckt PM D G S B
+params: W=10u L=1u
M1 D G S B PM L={L} W={W} AS={2u*W} PS={2*(2u+W)} AD={2u*W} PD={2*(2u+W)}
.ends

* ----------------------------------------------------------------------
* PMOS transistor model
* ----------------------------------------------------------------------
.MODEL PM PMOS LEVEL=8
* ----------------------------------------------------------------------
************************* SIMULATION PARAMETERS ************************
* ----------------------------------------------------------------------
* format    : LTSPICE
* model     : MOS BSIM3v3
* ----------------------------------------------------------------------
*                        TYPICAL MEAN CONDITION
* ----------------------------------------------------------------------
*        *** Flags ***
+MOBMOD =1.000e+00 CAPMOD =2.000e+00
+NOIMOD =3.000e+00
*        *** Threshold voltage related model parameters ***
+K1     =5.9959e-01
+K2     =-6.038e-02 K3     =1.103e+01 K3B    =-7.580e-01
+NCH    =9.240e+16 VTH0   =-6.915e-01
+VOFF   =-1.170e-01 DVT0   =1.650e+00 DVT1   =3.868e-01
+DVT2   =1.659e-02 KETA   =-1.440e-02
+PSCBE1 =5.000e+09 PSCBE2 =1.000e-04
+DVT0W  =1.879e-01 DVT1W  =7.335e+04 DVT2W  =-6.312e-03
*        *** Mobility related model parameters ***
+UA     =5.394e-10 UB     =1.053e-18 UC     =1.000e-20
+U0     =1.482e+02
*        *** Subthreshold related parameters ***
+DSUB   =5.000e-01 ETA0   =2.480e-01 ETAB   =-3.917e-03
+NFACTOR=1.214e+00
*        *** Saturation related parameters ***
+EM     =4.100e+07 PCLM   =3.184e+00
+PDIBLC1=1.000e-04 PDIBLC2=1.000e-20 DROUT  =5.000e-01
+A0     =5.850e-01 A1     =0.000e+00 A2     =1.000e+00
+PVAG   =0.000e+00 VSAT   =1.158e+05 AGS    =2.468e-01
+B0     =8.832e-08 B1     =0.000e+00 DELTA  =1.000e-02
+PDIBLCB=1.000e+00
*        *** Geometry modulation related parameters ***
+W0     =1.000e-10 DLC    =2.4500e-08
+DWB    =0.000e+00 DWG    =0.000e+00
+LL     =0.000e+00 LW     =0.000e+00 LWL    =0.000e+00
+LLN    =1.000e+00 LWN    =1.000e+00 WL     =0.000e+00
+WW     =1.894e-16 WWL    =-1.981e-21 WLN    =1.000e+00
+WWN    =1.040e+00
*        *** Temperature effect parameters ***
+AT     =3.300e+04 UTE    =-1.300e+00
+KT1    =-5.403e-01 KT2    =2.200e-02 KT1L   =0.000e+00
+UA1    =0.000e+00 UB1    =0.000e+00 UC1    =0.000e+00
+PRT    =0.000e+00
*        *** Overlap capacitance related and dynamic model parameters   ***
+CGDO   =8.600e-11 CGSO   =8.600e-11 CGBO   =1.100e-10
+CGDL   =1.080e-10 CGSL   =1.080e-10 CKAPPA =6.000e-01
+CF     =0.000e+00 ELM    =5.000e+00
+XPART  =1.000e+00 CLC    =1.000e-15 CLE    =6.000e-01
*        *** Parasitic resistance and capacitance related model parameters ***
+RDSW   =1.033e+03
+CDSC   =2.589e-03 CDSCB  =2.943e-04 CDSCD  =4.370e-04
+PRWB   =-9.731e-02 PRWG   =1.477e-01 CIT    =0.000e+00
*        *** Process and parameters extraction related model parameters ***
+TOX    =7.754e-09 NGATE  =0.000e+00
+NLX    =1.770e-07
*        *** Substrate current related model parameters ***
+ALPHA0 =0.000e+00 BETA0  =3.000e+01
*        *** Noise effect related model parameters ***
+AF     =1.461e+00 KF     =1.191e-26 EF     =1.000e+00
+NOIA   =5.245e+17 NOIB   =4.816e+03 NOIC   =8.036e-13
*        *** Common extrinsic model parameters ***
+LINT   =-7.130e-08 WINT   =3.4490e-08 XJ     =3.000e-07
+RSH    =1.290e+02 JS     =9.000e-05
+CJ     =1.360e-03 CJSW   =3.200e-10
****************not used +CBD    =0.000e+00 CBS    =0.000e+00 IS     =0.000e+00
+MJ     =5.600e-01 N      =1.000e+00 MJSW   =4.300e-01
+PB     =1.020e+00 TT     =0.000e+00
+PBSW   =1.020e+00
* ----------------------------------------------------------------------

* ----------------------------------------------------------------------
* Resistor RPN: Rsheet = 1.2KOhm/square, TC=-400 ppm/oC
* ----------------------------------------------------------------------
.SUBCKT RPN N1 N2 PARAMS: W=1e-6 L=1e-6
* ----------------------------------------------------------------------
************************* SIMULATION PARAMETERS ************************
* ----------------------------------------------------------------------
* format    : PSPICE
* model     : RESISTOR
* ----------------------------------------------------------------------
*                        TYPICAL MEAN CONDITION
* ----------------------------------------------------------------------
* PARAMETERS: W,L = device width and length [m]
R1 N1 N2 {1200*(L/W)} TC=-0.400e-03
.ENDS RPN
* ----------------------------------------------------------------------


* ----------------------------------------------------------------------
* Resistor RPP: Rsheet = 50 Ohm/square, TC=+830 ppm/oC
* ----------------------------------------------------------------------
.SUBCKT RPP N1 N2 PARAMS: W=1e-6 L=1e-6
* ----------------------------------------------------------------------
************************* SIMULATION PARAMETERS ************************
* ----------------------------------------------------------------------
* format    : PSPICE
* model     : RESISTOR
* ----------------------------------------------------------------------
*                        TYPICAL MEAN CONDITION
* ----------------------------------------------------------------------
* PARAMETERS: W,L = device width and length [m]
R1 N1 N2 {50*(L/W)} TC=8.30e-04
.ENDS RPP
* ----------------------------------------------------------------------

*-----------------------------------------------------------------------
* well diode modeled as PMOS transistor with D, G, S shorted to Anode
* Body (n-well) is the Cathode
* Nominal model, no tolerances
*
.subckt WDIODE A C
+params: n=1
M1 A A A C PM1 L=0.35u W={n*5u} AS={2.5u*5u*n} PS={2*(2.5u+5u*n)} AD={2.5u*5u*n} PD={2*(2.5u+5u*n)}

* ----------------------------------------------------------------------
* PMOS transistor model
* ----------------------------------------------------------------------
.MODEL PM1 PMOS LEVEL=8
* ----------------------------------------------------------------------
************************* SIMULATION PARAMETERS ************************
* ----------------------------------------------------------------------
* format    : LTSPICE
* model     : MOS BSIM3v3
* ----------------------------------------------------------------------
*                        TYPICAL MEAN CONDITION
* ----------------------------------------------------------------------
*        *** Flags ***
+MOBMOD =1.000e+00 CAPMOD =2.000e+00
+NOIMOD =3.000e+00
*        *** Threshold voltage related model parameters ***
+K1     =5.9959e-01
+K2     =-6.038e-02 K3     =1.103e+01 K3B    =-7.580e-01
+NCH    =9.240e+16 VTH0   =-6.915e-01
+VOFF   =-1.170e-01 DVT0   =1.650e+00 DVT1   =3.868e-01
+DVT2   =1.659e-02 KETA   =-1.440e-02
+PSCBE1 =5.000e+09 PSCBE2 =1.000e-04
+DVT0W  =1.879e-01 DVT1W  =7.335e+04 DVT2W  =-6.312e-03
*        *** Mobility related model parameters ***
+UA     =5.394e-10 UB     =1.053e-18 UC     =1.000e-20
+U0     =1.482e+02
*        *** Subthreshold related parameters ***
+DSUB   =5.000e-01 ETA0   =2.480e-01 ETAB   =-3.917e-03
+NFACTOR=1.214e+00
*        *** Saturation related parameters ***
+EM     =4.100e+07 PCLM   =3.184e+00
+PDIBLC1=1.000e-04 PDIBLC2=1.000e-20 DROUT  =5.000e-01
+A0     =5.850e-01 A1     =0.000e+00 A2     =1.000e+00
+PVAG   =0.000e+00 VSAT   =1.158e+05 AGS    =2.468e-01
+B0     =8.832e-08 B1     =0.000e+00 DELTA  =1.000e-02
+PDIBLCB=1.000e+00
*        *** Geometry modulation related parameters ***
+W0     =1.000e-10 DLC    =2.4500e-08
+DWB    =0.000e+00 DWG    =0.000e+00
+LL     =0.000e+00 LW     =0.000e+00 LWL    =0.000e+00
+LLN    =1.000e+00 LWN    =1.000e+00 WL     =0.000e+00
+WW     =1.894e-16 WWL    =-1.981e-21 WLN    =1.000e+00
+WWN    =1.040e+00
*        *** Temperature effect parameters ***
+AT     =3.300e+04 UTE    =-1.300e+00
+KT1    =-5.403e-01 KT2    =2.200e-02 KT1L   =0.000e+00
+UA1    =0.000e+00 UB1    =0.000e+00 UC1    =0.000e+00
+PRT    =0.000e+00
*        *** Overlap capacitance related and dynamic model parameters   ***
+CGDO   =8.600e-11 CGSO   =8.600e-11 CGBO   =1.100e-10
+CGDL   =1.080e-10 CGSL   =1.080e-10 CKAPPA =6.000e-01
+CF     =0.000e+00 ELM    =5.000e+00
+XPART  =1.000e+00 CLC    =1.000e-15 CLE    =6.000e-01
*        *** Parasitic resistance and capacitance related model parameters ***
+RDSW   =1.033e+03
+CDSC   =2.589e-03 CDSCB  =2.943e-04 CDSCD  =4.370e-04
+PRWB   =-9.731e-02 PRWG   =1.477e-01 CIT    =0.000e+00
*        *** Process and parameters extraction related model parameters ***
+TOX    =7.754e-09 NGATE  =0.000e+00
+NLX    =1.770e-07
*        *** Substrate current related model parameters ***
+ALPHA0 =0.000e+00 BETA0  =3.000e+01
*        *** Noise effect related model parameters ***
+AF     =1.461e+00 KF     =1.191e-26 EF     =1.000e+00
+NOIA   =5.245e+17 NOIB   =4.816e+03 NOIC   =8.036e-13
*        *** Common extrinsic model parameters ***
+LINT   =-7.130e-08 WINT   =3.4490e-08 XJ     =3.000e-07
+RSH    =1.290e+02 JS     =9.000e-05
+CJ     =1.360e-03 CJSW   =3.200e-10
************* not used +CBD    =0.000e+00 CBS    =0.000e+00 IS     =0.000e+00
+MJ     =5.600e-01 N      =1.000e+00 MJSW   =4.300e-01
+PB     =1.020e+00 TT     =0.000e+00
+PBSW   =1.020e+00
* ----------------------------------------------------------------------

.ends WDIODE


